US08076516B2
Preparation of 1-(3-(3-aminopropyl)phenyl)-2-methylhexan-2-ol
Deprotection of 2-(3-(3-(2-hydroxy-2-methylhexyl)phenyl)propyl)isoindoline-1,3-dione followed by flash chromatography (0-10% (7N NH3/MeOH)/ethyl acetate) gradient gave Example 121 a colorless oil. Yield (0.144 g, 85%): 1H NMR (400 MHz, CDCl3) δ 7.18-7.24 (m, 1H), 7.00-7.08 (m, 3H), 2.68-2.78 (m, 4H), 2.60-2.68 (m, 2H), 1.71-1.80 (m, 2H), 1.24-1.50 (m, 9H), 1.12 (s, 3H), 0.91 (t, J=7.2 Hz, 3H). ESI MS m/z 250.3 [m+H]+, 232.3 [m+H−H2O]

reactant | 2-(3-(3-(2-hydroxy-2-methylhexyl)phenyl)propyl)isoindoline-1,3-dione | OC(CC=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O)(CCCC)C | C24H29NO3
reactant | NH3 MeOH | 7N | N.CO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-(3-aminopropyl)phenyl)-2-methylhexan-2-ol | NCCCC=1C=C(C=CC1)CC(CCCC)(O)C | C16H27NO
